* LM301A SPICE MODEL for LTspice (opamp2 심볼용: 1=+, 2=-, 3=VCC, 4=VEE, 5=OUT)
.SUBCKT LM301A 1 2 3 4 5
* 1: non-inverting input
* 2: inverting input
* 3: VCC
* 4: VEE
* 5: output
* 입력 임피던스
RIN 1 2 2MEG
* 차동 증폭 (Open loop gain 2Meg)
EGAIN 10 0 1 2 2Meg
* 주파수 보상 (1.5kHz pole)
RP1 10 11 1MEG
CP1 11 0 106p
* 출력 버퍼 (레일 제한)
EOUT 5 0 11 0 1
ROUT 5 0 100
.ENDS LM301A